US04246272
In a 1 liter flask provided with a condenser, a thermometer and a stirring device are added 250 ml acetonitrile, 24.5 g 3-amino-5-methyl-isoxazole. This gives a solution to which are added 54 g propyl thiobenzimidate hydrochloride, and the resulting suspension is then refluxed. Dissolution is found to occur. Refluxing is maintained 2 hours. The material crystallizes and is left aside overnight, after which it is filtered, suction filtered and dried. Crystallization from isopropanol and reconversion to the base by addition of the suitable amount of sodium hydroxide solution give 28 g N-(5-methyl-isoxazol-3-yl)-benzamidine. (Yield: 56%). M.p. (capillary tube): 127°-129° C.

reactant | 3-amino-5-methyl-isoxazole | 24.5 g | NC1=NOC(=C1)C | C4H6N2O
reactant | propyl thiobenzimidate hydrochloride | 54 g | Cl.C(C1=CC=CC=C1)(SCCC)=N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-(5-methyl-isoxazol-3-yl)-benzamidine | 28 g, Yield: 56% | CC1=CC(=NO1)NC(C1=CC=CC=C1)=N | C11H11N3O
